US05780472
1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminothiocarbonyl]-4-(2-fluorophenyl)piperazine
Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)thiocarbamate and 1-(2-fluorophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)thiocarbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)CC)C)OC)=S | C16H18N2O2S
reactant | 1-(2-fluorophenyl)piperazine | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
product | 1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminothiocarbonyl]-4-(2-fluorophenyl)piperazine | yield: 82% | C(C)C=1C=C(C(=NC1C)OC)NC(=S)N1CCN(CC1)C1=C(C=CC=C1)F | C20H25FN4OS
